US07259175B2
3-{2-Methyl-4-[4-phenoxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-phenyl}-propionic acid
3-{2-Methyl-4-[4-phenoxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-phenyl}-propionic acid methyl ester (100 mg, 0.1796 mmol) is dissolved in tetrahydrofuran (1 mL) and 5N NaOH (1 mL) is added. The mixture is heated to reflux until the conversion is complete. Upon complete conversion, the reaction is cooled to room temperature and 5N HCl (1 mL) is added. The mixture is diluted with diethyl ether and extracted with 1N HCl. The organic layer is washed with water and brine, then dried over anhydrous sodium sulfate. Concentration of the solvent reveals the pure 3-{2-Methyl-4-[4-phenoxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-phenyl}-propionic acid in near quantitative yield (93 mg, 0.170 mmol).

reactant | 3-{2-Methyl-4-[4-phenoxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-phenyl}-propionic acid methyl ester | 0.1796 mmol, 100 mg | COC(CCC1=C(C=C(C=C1)SCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COC1=CC=CC=C1)C)=O | C29H26F3NO3S2
reactant | NaOH | 5N, 1 mL | [OH-].[Na+]
reactant | HCl | 5N, 1 mL | Cl | ClH
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-{2-Methyl-4-[4-phenoxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-phenyl}-propionic acid | quantitative yield | CC1=C(C=CC(=C1)SCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COC1=CC=CC=C1)CCC(=O)O | C28H24F3NO3S2
